US04552882
Preparation of 1-ethyl-1,4-dihydro-4-oxo-7-(1-pyrrolyl)-1,8-naphthyridine-3-carboxylic acid (stage D)
4.6 Grams of 1-ethyl-1,4-dihydro-4-oxo-7-amino-1,8-naphthyridine-3-carboxylic acid (U.S. Pat. No. 3,149,104) and 2.7 grams of 2,5-dimethoxytetrahydrofuran are placed under reflux for 30 minutes in 70 ml of glacial acetic acid. The mixture is allowed to cool then left for 8 hours at 5° C., and a precipitate is obtained which, when filtered off and recrystallized in acetonitrile, gives 4.3 grams of needles, of melting point 230°-232° C.

reactant | 1-ethyl-1,4-dihydro-4-oxo-7-amino-1,8-naphthyridine-3-carboxylic acid | C(C)N1C=C(C(C2=CC=C(N=C12)N)=O)C(=O)O | C11H11N3O3
reactant | 2,5-dimethoxytetrahydrofuran | 2.7 grams | COC1OC(CC1)OC | C6H12O3
solvent | acetic acid | 70 ml | C(C)(=O)O | C2H4O2
product | 1-ethyl-1,4-dihydro-4-oxo-7-(1-pyrrolyl)-1,8-naphthyridine-3-carboxylic acid | 4.3 grams | C(C)N1C=C(C(C2=CC=C(N=C12)N1C=CC=C1)=O)C(=O)O | C15H13N3O3
